US06037367
A solution of 4-t-butoxycarbonylaminomethylcarbonylamino-3-(3-cyclopentyloxy-4methoxyphenyl)-1-phenyl-1-butyne (290 mg, 0.59 mmol) in CH2Cl2 (5 ml) at 0° was treated with trifluoroacetic acid (4 ml). After 1 hr, all the solvents were evaporated. The residue was partitioned between H2O and Et2O, basified with aqueous NaOH, and the Et2O layer seperated, dried, and the solvent evaporated, and gave 4-aminomethylcarbonylamino-3-(3-cyclopentyloxy-4-methoxyphenyl)-1-phenyl-1-butyne, 200 mg (86%). The salt was formed by treating this amine (180 mg) in Me2CO (2 ml) with sulfamic acid (82 mg). The solution was concentrated to almost dryness, and the resultant crystals were triturated with Me2CO, and gave the titled compound, mp 119-124°. 1H NMR (400 MHz, CDCl3) δ 8.22 (t, 1 H), 7.44 (m, 3 H), 7.28 (m, 3 H), 7.02 (d, 1 H), 6.94 (m, 1 H), 6.82 (d, 1 H), 4.80 (m, 1 H), 4.04 (t, 1 H), 3.80 (s, 3 H), 3.76 (m, 2 H), 3.62 (m, 1 H), 3.52 (m, 1 H), 3.18 (m, 1 H), 2.04 (m, 2 H), 1.80-1.98 (m, 6 H), 1.52-1.72 (m, 4 H), 1.08-1.32 (m, 6 H).

reactant | 4-t-butoxycarbonylaminomethylcarbonylamino-3-(3-cyclopentyloxy-4methoxyphenyl)-1-phenyl-1-butyne | 0.59 mmol, 290 mg | C(C)(C)(C)OC(=O)NCC(=O)NCC(C#CC1=CC=CC=C1)C1=CC(=C(C=C1)OC)OC1CCCC1 | C29H36N2O5
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-aminomethylcarbonylamino-3-(3-cyclopentyloxy-4-methoxyphenyl)-1-phenyl-1-butyne | NCC(=O)NCC(C#CC1=CC=CC=C1)C1=CC(=C(C=C1)OC)OC1CCCC1 | C24H28N2O3
